US05256824
To a solution of 4,4-dicyclopropyl-2-cyclopenten-1-one (1.88 g) in diethyl ether (20 ml) was added diisobutylaluminum hydride (0.94N in n-hexane, 14 ml) at -70° C. to -64° C. under nitrogen atmosphere. After being stirred for 20 minutes, ethyl acetate (6 ml) was added thereto and the solution was acidified with dil. hydrochloric acid and extracted with diethyl ether. The extract was washed with brine, dried over sodium sulfate and evaporated in vacuo to give 4,4-dicyclopropyl-2-cyclopenten-1-ol (0.53 g). Since this compound was not so stable, it was used in the next reaction without purification.

reactant | 4,4-dicyclopropyl-2-cyclopenten-1-one | 1.88 g | C1(CC1)C1(C=CC(C1)=O)C1CC1 | C11H14O
reactant | diisobutylaluminum hydride | 0.94N, 14 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4,4-dicyclopropyl-2-cyclopenten-1-ol | 0.53 g | C1(CC1)C1(C=CC(C1)O)C1CC1 | C11H16O
